2184-08-06 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient give lasix and treated initially with NRB mask. Good urine
   output to the lasix with improvement in oxygenation overnight. No
   dyspnea this AM.
   Antibiotics modified in light of fever.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2184-8-5**] 06:22 PM
 FEVER - 101.2
F - [**2184-8-5**] 06:00 PM
   History obtained from Patient
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-6**] 12:18 AM
   Vancomycin - [**2184-8-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2184-8-5**] 09:00 PM
   Other medications:
   Chlortimazole, MVI, colace, ranitidine, oxycodone,
   salmeterol/fluticasone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-6**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.3
C (95.6
   HR: 88 (77 - 143) bpm
   BP: 93/61(69) {81/48(34) - 102/66(75)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,870 mL
                                                                    400 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,630 mL
                                                                    825 mL
   Urine:
                                                                  1,130 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,760 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Patient comfortable lying at 60%. No scleral icterus. Pharynx moist.
   Chest  with dullness on left and decreased fremitus. Normal breath
   sounds on right with I/E=[**12-30**]; no wheezes. Cor: PMI diffuse. Heart
   sounds distant. No gallop. I/VI mid-systolic murmur at left sternal
   border. Abodmen with active bowel sounds. Soft, non-tender. Extremities
   warm with good capillary refill. No edema. Patient alert and oriented.
   Labs / Radiology
   9.0 g/dL
   601 K/uL
   243 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   23 mg/dL
   93 mEq/L
   133 mEq/L
   26.6 %
   35.2 K/uL
        [image002.jpg]
                             [**2184-8-6**]  04:51 AM
   WBC
   35.2
   Hct
   26.6
   Plt
   601
   Cr
   0.8
   Glucose
   243
   Other labs: PT / PTT / INR:15.3/29.5/1.3, ALT / AST:14/21, Alk Phos / T
   Bili:120/0.7, Albumin:2.6 g/dL, LDH:452 IU/L, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: white out of left hemithorax. Mild patchy alveolar
   infiltrate in right lung.
   Assessment and Plan
   1) Respiratory Distress
   2) Hypoxemia
   3) Anemia
   4) Lung cancer
   5) Fever
   Respiratory symptoms and oxygenation improved with diuretic. CXR shows
   some patchy infiltrates in the right lung consistent with possible
   alveolar leak, perhaps secondary to transfusion related acute lung
   injury and/or volume overload. Patient doing better and tolerating
   lower FIO2. Pulmonary embolism less likely. Patient now on 3L O2 via
   nasal cannula with O2 sat 94%.
   Hct in appropriate range post transfusion.
   Patient on antibiotics for fever. No clear source. Awaiting cultures.
   Fluids even to slightly negative today. BUN/Creat mildly elevated.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2184-08-06 11:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight pt's respiratory status improved clinically, with stable
   blood pressures and sat>95% on non-breather. Pt was transitioned to
   high flow face mask and maintained sats in mid-90s.
   No complaints this AM.
 INDWELLING PORT (PORTACATH) - START [**2184-8-5**] 06:22 PM
 FEVER - 101.2
F - [**2184-8-5**] 06:00 PM
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-6**] 12:18 AM
   Vancomycin - [**2184-8-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2184-8-5**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-6**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.3
C (95.6
   HR: 91 (77 - 143) bpm
   BP: 91/67(72) {81/48(34) - 102/73(78)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,870 mL
                                                                    400 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,630 mL
                                                                    915 mL
   Urine:
                                                                  1,130 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,760 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Chest: Some increased work of breathing. Diminished lung sounds on
   left. Decreased fremitus on left. Wheezes heard throughout.
   Labs / Radiology
   601 K/uL
   9.0 g/dL
   243 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.5 mEq/L
   23 mg/dL
   93 mEq/L
   133 mEq/L
   26.6 %
   35.2 K/uL
        [image002.jpg]
                             [**2184-8-6**]  04:51 AM
   WBC
   35.2
   Hct
   26.6
   Plt
   601
   Cr
   0.8
   Glucose
   243
   Other labs: PT / PTT / INR:15.3/29.5/1.3, ALT / AST:14/21, Alk Phos / T
   Bili:120/0.7, Albumin:2.6 g/dL, LDH:452 IU/L, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assesment: This is a 54 year-old female with a history of NSCLC,
   post-obstructive pneumonia, history of PE who presents with hypoxia in
   setting of blood transfusion.
   .
   Plan:
   # Respiratory failure - PaO2/FiO2 ratio was 147-200 assuming FiO2 of
   50-70% on NRB.  Main consideration is TRALI, other consideration is
   volume overload but patient didn't respond to furosemide.  PE unlikely
   given on therapeutic enoxaparin but can consider working up if
   tachycardia/hypoxia persist.  Exacerbation of post-osbtructive
   pneuomonia also possiblity. Pt doing well this AM, much improved after
   measured diuresis
   - Continue enoxaparin therapeutic dose
   - Broaden antibiotics to Vancomycin/Pip-Tazo
   - Continue supplemental O2, and monitor O2 Sats
   - Sputum culture and narrow antibioitics as approriate
   .
   # hyponatremia - present since past week.  Hypovolemia versus chronic
   pulmonary process related SIADH.  Monitor and hold off on aggressive
   fluids for now, given hypoxia.
   .
   # Fevers/leukocytosis - most likely secondary to PNA but C. difficile
   aslo possiblity given recent antibiotics and degree of leukocytosis.
   No history of diarrhea.
   - f/u c.diff
   .
   # NSCLC
 f/u onc recs, if any.
   .
   # Hypothyroidism - Continue levothyroxine
   .
   # FEN:  Regular diet, electrolyte sliding scale
   .
   # Access - Peripheral IVs, portacath
   .
   # PPx:  Enoxaparin therapeutic dose, PPI for GERD
   .
   # Code:  Full code; however, given the tenuous nature of pt
s pulmonary
   status, will discuss with pt and family regarding goals of care.
   .
   # Dispo:  call out to floor today.
   .
   # Comm:  [**Name (NI) 3142**] [**Telephone/Fax (1) 4042**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-08-07 07:09:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   Overnight, pt still tachycardic in 110-120s. Denied any chest pain,
   SOB, dizziness. This a.m., pt feels much better than yesterday. C/o
   mild nausea with meds, relieved with food. Foley d/c
ed yesterday. Good
   UOP.
   Pt says home O2 requirement is 2-3L. Currently satting in upper 90s on
   6L.
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2184-8-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-7**] 04:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-8-6**] 08:00 PM
   Enoxaparin (Lovenox) - [**2184-8-6**] 08:02 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2184-8-7**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 118 (88 - 128) bpm
   BP: 106/52(64) {91/45(57) - 109/74(82)} mmHg
   RR: 20 (11 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,525 mL
                                                                    856 mL
   PO:
                                                                    740 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    200 mL
   Urine:
                                                                  1,850 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                    656 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Gen: alert, awake, NAD, sitting up in bed, pleasant
   HEENT: mmm, EOMI grossly, PERRL
   CV: tachycardic, no murmurs/rubs/gallops, nml rhythm
   LUNGS: decreased breath sounds L lung field, relatively clear R lung
   field posteriorly
   ABD: soft, NTND, bs+
   EXT: no cyanosis/ clubbing/edema, pedal pulses present bilaterally
   Labs / Radiology
   625 K/uL
   8.0 g/dL
   203 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   90 mEq/L
   130 mEq/L
   24.7 %
   36.0 K/uL
        [image002.jpg]
   Blood cx x 4: pending
   [**8-3**] Pleural fluid: GS with 2+PMN, anaerobic cx- pending
   [**8-6**] CXR
   FINDINGS: In comparison with the study of [**8-6**], there is again complete
   opacification of the left hemithorax from known central obstructing
   mass with
   associated total collapse and effusion. In the right lung, there is
   again
   some decrease in the heterogeneous airspace opacity that had rapidly
   developed
   two days previously. Some residual haziness that is much less
   confluent.
   IMPRESSION: Little overall change
                             [**2184-8-6**]  04:51 AM
                             [**2184-8-7**]  05:18 AM
   WBC
   35.2
   36.0
   Hct
   26.6
   24.7
   Plt
   601
   625
   Cr
   0.8
   1.0
   Glucose
   243
   203
   [**2184-8-7**]:
    PT / PTT / INR:15.3/27.3/1.3, ALT / AST:[**12-13**], Alk Phos / T
   Bili:123/0.8, Albumin:2.6 g/dL, LDH:396 IU/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assesment: This is a 54 year-old female with a history of NSCLC,
   post-obstructive pneumonia, history of PE who presents with hypoxia in
   setting of blood transfusion.
   .
   Plan:
   # Respiratory failure - PaO2/FiO2 ratio was 147-200 assuming FiO2 of
   50-70% on NRB.  Main consideration is TRALI, other consideration is
   volume overload but patient didn't respond to furosemide.  PE unlikely
   given on therapeutic enoxaparin but can consider working up if
   tachycardia/hypoxia persist.  Exacerbation of post-obstructive
   pneuomonia also possiblity. Pt was tapped [**8-3**], with culture NGTD.
   - Continue enoxaparin therapeutic dose
   - Continue  Vancomycin/ Zosyn (Day 2
   - Consider changing to Meropenem for better GN coverage if clinically
   worsens
   - Continue supplemental O2, and monitor O2 Sats
   - Sputum culture and narrow antibioitics as appropriate
   - Will try to wean O2 as tolerated to home baseline requirement of
   2-3L.
   - Continue Advair, Spiriva, Albuterol PRN
   .
   #Tachycardia- Likely secondary to hypovolemia. Will try to improve HR
   with volume repletion.  Has also been persistently febrile today, so HR
   may be elevated secondary to increased metabolic demand. Pt has hx of
   PE. CXR this a.m. without tracheal shift. O2 requirement persists at 5L
   with sat in low 90s.
   - Continue fluid boluses
   - Tylenol PRN fever, Ibuprofen if Tylenol does not break fever
   - Consider EKG to eval if persists, becomes symptomatic, to check for
   arrhythmia
   .
   # hyponatremia - present since past week.  Hypovolemia versus chronic
   pulmonary process related SIADH.
   - Will continue fluid hydration today with NS boluses.
   - Re-check lytes in p.m.
   .
   # Fevers/leukocytosis - most likely secondary to PNA but C. difficile
   also possiblity given recent antibiotics and degree of leukocytosis.
   No history of diarrhea.
   - f/u pending blood culture
   - C.Diff, sputum, urine culture ordered. Pending collection.
   .
   # NSCLC
 f/u onc recs, if any.
   .
   # Hypothyroidism - Continue levothyroxine
   .
   #Pain control- well-controlled. Dilaudid PRN, Oxycodone
   .
   # FEN:  Regular diet, electrolyte sliding scale
   .
   # Access - Peripheral IVs, portacath
   .
   # PPx:  Enoxaparin therapeutic dose, Ranitidine for GERD, bowel regimen
   (Docusate, Lactulose, Senna PRN), Insulin SS
   .
   # Code:  Full code; however, given the tenuous nature of pt
s pulmonary
   status, will discuss with pt and family regarding goals of care.
   .
   # Dispo:  ICU for now as HR still elevated to 130s.
   .
   # Comm:  [**Name (NI) 3142**] [**Telephone/Fax (1) 4042**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-08-07 08:53:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 F NSCLC s/p chemo / XRT with recurrence, right-sided PE and
   loculated left pleural effusion admitted with fever from presumed
   post-obstructive pneumonia.  Developed worsening hypoxemia following
   transfusion.  Now improved.  Says she feels
excellent
 this a.m.  No
   pain, lightheadedness.  Reports thirst.
   24 Hour Events:
 CALLED OUT
   Worsening tachycardia
   Nausea with medications but able to take some po
   Foley DC'd
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2184-8-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-7**] 04:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2184-8-6**] 08:00 PM
   Enoxaparin (Lovenox) - [**2184-8-6**] 08:02 PM
   Other medications:
   MVI
   Colace
   Zantac
   Oxycodone SR
   Synthroid
   Advair
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Gastrointestinal: Nausea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2184-8-7**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 124 (88 - 128) bpm
   BP: 98/54(64) {91/45(57) - 116/74(82)} mmHg
   RR: 23 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,525 mL
                                                                    861 mL
   PO:
                                                                    740 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    785 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    440 mL
   Urine:
                                                                  1,850 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -325 mL
                                                                    421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 5 L
   SpO2: 96%
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : Right, Diminished: Left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   625 K/uL
   203 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   35 mg/dL
   90 mEq/L
   130 mEq/L
   24.7 %
   36.0 K/uL
        [image002.jpg]
                             [**2184-8-6**]  04:51 AM
                             [**2184-8-7**]  05:18 AM
   WBC
   35.2
   36.0
   Hct
   26.6
   24.7
   Plt
   601
   625
   Cr
   0.8
   1.0
   Glucose
   243
   203
   Other labs: PT / PTT / INR:15.3/27.3/1.3, ALT / AST:[**12-13**], Alk Phos / T
   Bili:123/0.8, Albumin:2.6 g/dL, LDH:396 IU/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.6 mg/dL
   Imaging: CXR [**8-7**] - Improving right sided patchy opacity; stable
   opacification of left hemithorax.
   Microbiology: Blood cultures pending
   Pleural fluid culture pending
   Assessment and Plan: 54 F NSCLC with recurrence, right PE, left
   loculated effusion.  Admitted with fever from presumed post-obstructive
   pneumonia.  Transferred to ICU with worsening hypoxemia after
   transfusion
 TRALI vs. pulmonary edema.
   1)       Hypoxemic respiratory failure
 Titrate down oxygen today
   (baseline of [**2-1**] L NC).
   2)      Fever / Elevated WBC count
 Continue vancomycin, zosyn for
   empiric therapy of post-obstructive pneumonia.  Follow up cultures.
   Stool for c. diff.
   3)      Tachycardia
 Suspect related to hypovolemia based on thirst,
   lower blood pressure, elevated BUN / creatinine, hyponatremia.  Will
   bolus NS 500 cc at a time.
   4)      PE
 Therapeutic lovenox.
   5)      Constipation
 Start bowel regimen.
   6)      Hyponatremia
 Likely due to dehydration.  Will repeat in p.m.
   I was physically present with the ICU fellow for presentation,
   examination and development of the treatment plan.  I agree in full
   with the note of Dr. [**Last Name (STitle) **] in regards to history, physical, ROS and
   plan.   I would add
   Patient admitted to ICU with acute respiratory failure hypoxemic in
   nature and with pulmonary edema likely contributor and hydrostatic
   edema may be less likely at this time given current sinus tachycardia
   and fever.  She has continued fevers with possible post-obstructive
   pneumonia leading to a picture of ongoing sepsis/infection.  The
   sources for this do include pulmonary parenchyma and pleural space but
   attempts to tap effusion in the past have not succeded.
   Exam
Patient alert, comfortable by sujective report.  She has
   persistent sinus tachycardia and fever.  Lung exam with absence of
   breath sounds in left side and with significant crackles in right lung
   in mid and lower lung fields
   Will
   1)Continue Vanco/Zosyn, follow up cultures, will have to reconsider
   imaging of left lung if concern for abscess is raised with limited
   response and hypdense regions seen previously do raise the possible
   issue of ongoing infection.  Consider move to Meropenem is persistent
   fevers seen at day #5.
   2)Wean O2 as tolerated.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  RISS
   Lines:  Peirpheral IV
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT: Therapeutic lovenox
   Stress ulcer: Ranitidine.
   VAP:  N/A
   Comments:
   Communication:  Comments: With patient.
   Code status: Full code
   Disposition : Remains in ICU until tachycardia improved.
   Total time spent: 45

2184-08-08 06:33:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   Pt continued to have fever spikes throughout the afternoon, with high
   of 102. Fever did not respond to Tylenol, finally broke in the early
   evening and overnight with doses of Ibuprofen.
   O2 was weaned from 6L to 3L in last night., but pt desatted to upper
   80s, eventually placed back on 6L this a.m satting in mid-90s.
   Pt passed BM this a.m., formed without gross blood, first since [**7-30**].
 BLOOD CULTURED - At [**2184-8-7**] 12:29 PM
 BLOOD CULTURED - At [**2184-8-7**] 04:19 PM
 ULTRASOUND - At [**2184-8-7**] 11:06 PM
   of bilateral lower extremities LENIs -> negative
 FEVER - 102.0
F - [**2184-8-7**] 03:00 PM
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2184-8-7**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-8**] 04:05 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-8-7**] 11:37 AM
   Enoxaparin (Lovenox) - [**2184-8-7**] 08:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2184-8-8**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.6
   HR: 128 (107 - 132) bpm
   BP: 104/47(59) {94/46(57) - 121/69(78)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  3,958 mL
                                                                    525 mL
   PO:
                                                                  1,080 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,878 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    600 mL
   Urine:
                                                                  1,530 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,428 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6L
   SpO2: 89%
   Physical Examination
   Gen: alert, awake, NAD, sitting OOB in chair
   HEENT: mmm, EOMI grossly, PERRL, NCAT
   CV: RRR, no m/r/g, S1 S2 present
   LUNGS: diminished air movement in L lung diffusely, crackles in RLL
   ABD: soft, NTND, bs+
   EXT: trace edema LE bilaterally, pedal pulses 2+ bilaterally
   Labs / Radiology
   609 K/uL
   7.8 g/dL
   147 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   24.4 %
   32.8 K/uL
        [image002.jpg]
   Blood cx x 6: pending
                             [**2184-8-6**]  04:51 AM
                             [**2184-8-7**]  05:18 AM
                             [**2184-8-7**]  05:24 PM
                             [**2184-8-8**]  03:50 AM
   WBC
   35.2
   36.0
   32.8
   Hct
   26.6
   24.7
   24.4
   Plt
   [**Telephone/Fax (3) 4105**]
   Cr
   0.8
   1.0
   0.7
   0.7
   Glucose
   243
   203
   142
   147
   Other labs: PT / PTT / INR:15.3/27.3/1.3, ALT / AST:[**12-13**], Alk Phos / T
   Bili:123/0.8, Albumin:2.6 g/dL, LDH:396 IU/L, Ca++:7.3 mg/dL, Mg++:1.6
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assesment: This is a 54 year-old female with a history of NSCLC,
   post-obstructive pneumonia, history of PE who presents with hypoxia in
   setting of blood transfusion.
   .
   Plan:
   # Respiratory failure - PaO2/FiO2 ratio was 147-200 assuming FiO2 of
   50-70% on NRB.  Main consideration is TRALI, other consideration is
   volume overload but patient didn't respond to furosemide.  PE unlikely
   given on therapeutic enoxaparin but can consider working up if
   tachycardia/hypoxia persist.  Exacerbation of post-obstructive
   pneuomonia also possiblity. Pt was tapped [**8-3**], with culture NGTD.
   - Continue enoxaparin therapeutic dose
   - Will d/c Vancomycin today. Continue Zosyn (?Day3), and transition to
   PO Augmentin prior to discharge home.
   - Consider changing to Meropenem for better GN coverage if clinically
   worsens
   - Continue supplemental O2, and monitor O2 Sats
   - Pt unable to produce sputum culture
   - Check a urine culture
   - Pt unable to wean down O2 thus far to home baseline of 2-3L. Pt may
   have new increased O2 requirement of 4-6L. Continue to wean as
   tolerated.
   - Attempt to walk pt today to monitor for desats
   - Continue Advair, Spiriva, Albuterol PRN
   .
   #Tachycardia- Initially thought to be secondary to hypovolemia. Now,
   elevated HR yesterday most likely related to fevers, as HR curve
   mirrors trend of fevers.  Pt appears to be euvolemic today.
   - Tylenol PRN fever, Ibuprofen if Tylenol does not break fever
   - Consider EKG to eval if persists, becomes symptomatic, to check for
   arrhythmia
   .
   # Hyponatremia
 resolved. Most likely [**1-31**]  hypovolemia.
   - Monitor daily lytes.
   .
   # Fevers/leukocytosis - most likely secondary to PNA. C.Diff less
   likely given no hx of diarrhea. Urine can also be a source, but no
   urinary symptoms at present.
   - Will check a urine culture to rule out urinary source
   - f/u pending blood cultures
   - D/C sputum and C.Diff collection
   .
   # NSCLC
 f/u onc recs, if any.
   .
   # Hypothyroidism - Continue levothyroxine
   .
   #Pain control- well-controlled. Dilaudid PRN, Oxycodone
   .
   # FEN:  Regular diet, K sliding scale. Replete additional lytes PRN.
   .
   # Access
 portacath.
   .
   # PPx:  Enoxaparin therapeutic dose, Ranitidine for GERD, bowel regimen
   (Docusate, Lactulose PRN, will schedule Senna given chronic Oxycodone
   use), Insulin SS
   .
   # Code:  Full code; however, given the tenuous nature of pt
s pulmonary
   status, will discuss with pt and family regarding goals of care.
   .
   # Dispo:  as tachycardia improved, will call out to floor today.
   .
   # Comm:  [**Name (NI) 3142**] [**Telephone/Fax (1) 4042**] (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-08-08 10:27:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 F with metastatic lung cancer, R PE, L lung collapse with large
   pleural effusion admitted with persistent fever presumed secondary to
   post-obstructive pneumonia.  Her hospital course was complicated by
   worsening hypoxemia after receiving transfusions.  Her hypoxemia has
   been relatively stable and there does not appear to be anything
   reversible by exam or imaging.  She may be at a new baseline due to
   progression of her lung cancer.
   24 Hour Events:
 BLOOD CULTURED - At [**2184-8-7**] 12:29 PM
 BLOOD CULTURED - At [**2184-8-7**] 04:19 PM
 ULTRASOUND - At [**2184-8-7**] 11:06 PM
   of bilateral lower extremities LENIs - Negative
 FEVER - 102.0
F - [**2184-8-7**] 03:00 PM
   -Tachycardia improved with control of fever using ibuprofen
   -Oxygen decreased overnight to 3L but had desat and increased again to
   6L
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine And Related
   Hives;
   Levaquin (Oral) (Levofloxacin)
   itching;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-8-8**] 04:05 AM
   Vancomycin - [**2184-8-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-8-7**] 11:37 AM
   Enoxaparin (Lovenox) - [**2184-8-8**] 08:00 AM
   Ranitidine (Prophylaxis) - [**2184-8-8**] 08:00 AM
   Other medications:
   MVI
   Colace
   Spiriva
   Oxycodone
   Synthroid
   Advair
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-8-8**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36
C (96.8
   HR: 107 (104 - 132) bpm
   BP: 83/59(65) {83/46(57) - 121/63(77)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  3,958 mL
                                                                    880 mL
   PO:
                                                                  1,080 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,878 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    700 mL
   Urine:
                                                                  1,530 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,428 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : right base, Absent :
   left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   609 K/uL
   147 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   24.4 %
   32.8 K/uL
        [image002.jpg]
                             [**2184-8-6**]  04:51 AM
                             [**2184-8-7**]  05:18 AM
                             [**2184-8-7**]  05:24 PM
                             [**2184-8-8**]  03:50 AM
   WBC
   35.2
   36.0
   32.8
   Hct
   26.6
   24.7
   24.4
   Plt
   [**Telephone/Fax (3) 4105**]
   Cr
   0.8
   1.0
   0.7
   0.7
   Glucose
   243
   203
   142
   147
   Other labs: PT / PTT / INR:15.3/27.3/1.3, ALT / AST:[**12-13**], Alk Phos / T
   Bili:123/0.8, Albumin:2.6 g/dL, LDH:396 IU/L, Ca++:7.3 mg/dL, Mg++:1.6
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR - Opacified L hemithorax.  Trachea midline.  Patchy
   nodular opacities right.  No acute change.
   Microbiology: Blood cultures - Pending.
   Pleural fluid - NGTD.
   Assessment and Plan: 54 F metastatic lung cancer with L lung collapse
   secondary to endobronchial occlusion with large left pleural effusion,
   right PE admitted with fever presumed secondary to post-obstructive
   pneumonia.  No evidence that the pleural space is infected.  Her
   tachycardia is controlled with treatment of her fever.
   1)       Fever
 Follow up blood cultures.  Send urine culture today.
   Will DC vancomycin.  Continue Zosyn for now.  Will likely need
   prolonged course of oral antibiotic such as Augmentin as outpatient.
   Treat symptomatically with ibuprofen.  Leukocytosis stable to improved.
   2)       Tachycardia
 Resolved with control of fever.  Appears
   euvolemic.
   3)       Hypoxemia
 Stable.  Titrate O2 today with ambulation.
   4)       PE
 Therapeutic lovenox.  LENIs yesterday negative for
   recurrent clot.
   5)       Anemia
 Hct stable.
   6)       Pain control
 Continue oxycodone.
   7)       Constipation
 Bowel regimen.
   ICU Care
   Nutrition: Regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2184-8-5**] 06:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Ranitidine
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code.  Continue to address goals of care.
   Disposition : Transfer to floor.
   Total time spent: